US04992438
Boron bromide (3.9 g) was added dropwise to a solution of 3.0 g of 2-anilino-4-methoxymethyl-6-methylpyrimidine in 100 ml of dichloromethane at -70° C. After completion of the dropwise addition, the coolant was removed and the mixture was stirred at room temperature for 5 hours. The reaction mixture was poured into water gradually. The organic layer was washed with water, dried over magnesium sulfate and concentrated. The solid residue was recrystallized from ethanol-hexane to obtain 2.5 g (yield: 89%) of 2-anilino-4-hydroxymethyl-6-methyl-pyrimidine having a melting point of 118°-120° C.

reactant | Boron bromide | 3.9 g | B(Br)(Br)Br | BBr3
reactant | 2-anilino-4-methoxymethyl-6-methylpyrimidine | 3.0 g | N(C1=CC=CC=C1)C1=NC(=CC(=N1)COC)C | C13H15N3O
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 2-anilino-4-hydroxymethyl-6-methyl-pyrimidine | 2.5 g, yield: 89% | N(C1=CC=CC=C1)C1=NC(=CC(=N1)CO)C | C12H13N3O
